US08314098B2
(Step 3): N-(3-Methyl-benzylidene)-N′-{2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-hydrazine (Compound 14)
There was suspended, in ethanol (2 mL), 5-chloro-2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (72.1 mg, 0.219 mM) and then potassium carbonate (32.8 mg, 0.241 mM) and hydrazine monohydrate (106 μL, 2.19 mM) were added to the suspension. This suspension was stirred at 150° C. for 20 minutes under the irradiation with microwaves. This reaction liquid was diluted with a saturated aqueous common salt solution and then extracted with ethyl acetate. The extracts thus obtained were combined together and then dried over anhydrous sodium sulfate and the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (25.4 μL, 0.219 mM) were added to the suspension and the mixture was stirred at room temperature for one hour. This reaction mixture was filtered and the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to give the title compound (11.2 mg, overall yield of these two steps: 12%).

reactant | 5-chloro-2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.219 mM, 72.1 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=C(C=CC=C2)C | C17H17ClN4O
reactant | potassium carbonate | 0.241 mM, 32.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 2.19 mM, 106 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-Methyl-benzylidene)-N′-{2-(2-methyl-phenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-hydrazine | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=C(C=CC=C3)C)C=CC1 | C25H26N6O
